US08614206B2
5-amino-N-[5-(4-amino-5-methoxy-azepan-1-yl)-1-methyl-pyrazol-4-yl]-2-(2-pyridyl)thiazole-4-carboxamide 322
Following the procedure Example 101, reacting tert-butyl ((4R,5R)-1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-methoxyazepan-4-yl)carbamate and 5-((tert-butoxycarbonyl)amino)-2-(pyridin-2-yl)thiazole-4-carboxylic acid gave racemic 322 (58.4 mg, 41% over two steps). 1H NMR (400 MHz, DMSO) δ 8.89 (s, 1H), 8.54 (d, J=4.7 Hz, 1H), 8.17 (d, J=8.0 Hz, 1H), 7.89 (t, J=7.7 Hz, 1H), 7.62-7.47 (m, 3H), 7.43-7.31 (m, 1H), 3.64 (s, 3H), 3.27 (s, 3H), 3.23-2.91 (m, 6H), 2.15-2.00 (m, 1H), 1.92-1.80 (m, 1H), 1.79-1.55 (m, 2H). LCMS (ES+) m/z 443 (M+1)

reactant | tert-butyl ((4R,5R)-1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-methoxyazepan-4-yl)carbamate | NC=1C=NN(C1N1CC[C@H]([C@@H](CC1)OC)NC(OC(C)(C)C)=O)C | C16H29N5O3
reactant | 5-((tert-butoxycarbonyl)amino)-2-(pyridin-2-yl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=NC=CC=C1)C(=O)O | C14H15N3O4S
product | 5-amino-N-[5-(4-amino-5-methoxy-azepan-1-yl)-1-methyl-pyrazol-4-yl]-2-(2-pyridyl)thiazole-4-carboxamide | NC1=C(N=C(S1)C1=NC=CC=C1)C(=O)NC=1C=NN(C1N1CCC(C(CC1)OC)N)C | C20H26N8O2S
